US05422335
2-Benzoylamino-3-cyano-4,5,6,7-tetrahydrobenzo[b]thiophene
4.7 ml (40 mmol) of benzoyl chloride were added to a solution of 5.34 g (30 mmol) of 2-amino-3-cyano-4,5,6,7-tetrahydrobenzo[b]thiophene in 50 ml of pyridine. Stirring was carried out for 2 hours at 80° C. after which 150 ml of 10 mol % aqueous hydrochloric acid were added to the mixture. The solid formed was isolated in a conventional manner. Yield: 97%; mp.: 168°-170° C.

reactant | benzoyl chloride | 40 mmol, 4.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino-3-cyano-4,5,6,7-tetrahydrobenzo[b]thiophene | 30 mmol, 5.34 g | NC1=C(C2=C(S1)CCCC2)C#N | C9H10N2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-Benzoylamino-3-cyano-4,5,6,7-tetrahydrobenzo[b]thiophene | Yield: 97% | C(C1=CC=CC=C1)(=O)NC1=C(C2=C(S1)CCCC2)C#N | C16H14N2OS
